US03950329
To a solution of 1.04 g of benzhydryl 3-fluoromethyl-7-(2-thienylacetamido)-2-cephem-4-carboxylate in 10 ml of CHCl3 at 0° is added dropwise a solution of 0.35 g of m-chloroperbenzoic acid in 5 ml of CHCl3. The solution is stirred at 0° for 2.5 hours, then diluted with CHCl3 and washed with NaHCO 3, the dried (MgSO4) and evaporated in vacuo. The residue is recrystallized from methanol to yield benzhydryl 3-fluoromethyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate-1-oxide.

reactant | benzhydryl 3-fluoromethyl-7-(2-thienylacetamido)-2-cephem-4-carboxylate | 1.04 g | FCC1=CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O | C27H23FN2O4S2
reactant | m-chloroperbenzoic acid | 0.35 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | benzhydryl 3-fluoromethyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate-1-oxide | FCC=1CS([C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O)=O | C27H23FN2O5S2
